US07919519B2
Synthesized according to Scheme 1, Step 1 from (4-(2-phenylisopropyl)phenol) and 2-bromo-1,1-diethoxyethane to give 1-(2,2-diethoxyethoxy)-4-(2-phenylpropan-2-yl)benzene as a yellow-orange oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.19-7.29 (m, 4H), 7.14-7.19 (m, 1H), 7.13 (d, J=9.0 Hz, 2H), 6.82 (d, J=8.5 Hz, 2H), 4.82 (t, J=5.3 Hz, 1H), 3.98 (d, J=5.0 Hz, 2H), 3.70-3.81 (m, 2H), 3.57-3.68 (m, 2H), 1.65 (s, 6H), 1.24 (t, J=7.0 Hz, 6H).

reactant | 4-(2-phenylisopropyl)phenol | CC(C)(C1=CC=CC=C1)C2=CC=C(C=C2)O | C15H16O
reactant | 2-bromo-1,1-diethoxyethane | BrCC(OCC)OCC | C6H13BrO2
product | 1-(2,2-diethoxyethoxy)-4-(2-phenylpropan-2-yl)benzene | C(C)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1)OCC | C21H28O3
